data/oMe_Silver.jsonl
{"reaction_id": "NR-122_1-[N+](=O)[O-]_2-C(=O)C(F)(F)F_3-C1CCCCC1_4-C(C)(C)C","name": "Knoevenagel Condensation","level": "medium","reactants_smiles": ["C(=O)(C1CCCCC1)C(C)(C)C","C([N+](=O)[O-])C(=O)C(F)(F)F"],"products_smiles": ["C(=C([N+](=O)[O-])C(=O)C(F)(F)F)(C1CCCCC1)C(C)(C)C"],"conditions": "C1CCNCC1","mechanism": [{"step": 1,"type": "substitution","subtype": "electrophilic_substitution","intermediate_smiles": "C(=[N+]1CCCCC1)(C1CCCCC1)C(C)(C)C","rationale": "Piperidine attacks the carbonyl carbon, forming an iminium ion; the nitrogen lone pair facilitates electrophilic activation by increasing carbonyl carbon's partial positive charge through resonance and inductive effects."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[CH-]([N+](=O)[O-])C(=O)C(F)(F)F","rationale": "The basic nitrogen abstracts an acidic α-proton from [N+](=O)[O-]–C(=O)C(F)(F)F methylene, stabilized by resonance with adjacent electron-withdrawing groups, generating a nucleophilic carbanion."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C(N1CCCCC1)(C1CCCCC1)C(C)(C)C)([N+](=O)[O-])C(=O)C(F)(F)F","rationale": "The resonance-stabilized carbanion attacks the iminium carbon, favored by strong electrophilicity from the positively charged nitrogen and minimal steric hindrance at the reaction site."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[C-](C(N1CCCCC1)(C1CCCCC1)C(C)(C)C)([N+](=O)[O-])C(=O)C(F)(F)F","rationale": "Proton transfer regenerates the neutral amine and positions the intermediate for elimination, driven by the stability of the conjugated alkene product."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=C([N+](=O)[O-])C(=O)C(F)(F)F)(C1CCCCC1)C(C)(C)C","rationale": "Elimination of piperidine occurs as the leaving group is stabilized by its basicity and the formation of a conjugated C=C bond provides thermodynamic driving force."}],"description": "In the piperidine-catalyzed Knoevenagel condensation, the amine activates the carbonyl via iminium formation, while also deprotonating the active methylene compound to generate a nucleophile. Nucleophilic addition to the activated carbonyl is followed by proton transfers and elimination to yield the conjugated alkene."}
{"reaction_id": "NR-227_1-C(C)(C)C_2-CCCC","level": "hard","name": "Pomeranz-Fritsch Isoquinoline Synthesis","reactants_smiles": ["O=C(C(C)(C)C)c1ccccc1","NC(C(OCCCC)(OCCCC))c1ccccc1"],"products_smiles": ["C1=CC=CC2=C1C=C(c3ccccc3)N=C(C(C)(C)C)2"],"conditions": "acidic conditions","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1ccccc1)(C(C)(C)C)=NC(c1ccccc1)C(OCCCC)(OCCCC)","step_weight": 0,"rationale": "The amine nitrogen attacks the electrophilic carbonyl carbon, facilitated by acid activation of the carbonyl, forming a stabilized carbinolamine intermediate."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(c1ccccc1)(C(C)(C)C)=NC(c1ccccc1)C(=[O+]CC)","step_weight": 0,"rationale": "Protonation of the hydroxyl group enhances its leaving ability, allowing water elimination to form an iminium ion stabilized by conjugation with the aromatic ring."},{"step": 3,"type": "elimination","subtype": "proton_elimination","intermediate_smiles": "C(c1ccccc1)(C(C)(C)C)=NC(c1ccccc1)=C([O]CC)","step_weight": 0,"rationale": "Loss of a proton adjacent to the iminium generates an enamine, driven by increased conjugation and relief of positive charge."},{"step": 4,"type": "cyclization","subtype": "aromatic_electrophilic_substitution","intermediate_smiles": "C(=C1C2C=CC=C1)(C(C)(C)C)N=C(c1ccccc1)C2([O]CC)","step_weight": 0,"rationale": "The electron-rich aromatic ring attacks the electrophilic iminium carbon intramolecularly, favored by proximity and acid-promoted electrophilicity, forming the bicyclic framework."},{"step": 5,"type": "aromatization","subtype": "dehydration","intermediate_smiles": "C1=CC=CC3=C1C=C(C2=CC=CC=C2)N=C3(C(C)(C)C)","step_weight": 0,"rationale": "Dehydration restores full aromaticity in the heterocyclic ring, a thermodynamically favorable step under acidic, dehydrating conditions."}],"description": "Under acidic conditions, the amine condenses with the carbonyl to form an iminium intermediate, which undergoes dehydration and rearrangement. Subsequent intramolecular electrophilic aromatic substitution closes the isoquinoline ring, followed by dehydration-driven aromatization to yield the heteroaromatic product."}
